US04584308
85 g (0.466 mol) of 4-chlorophenyl isopropyl ketone, 31.3 g (0.56 mol) of potassium hydroxide and 5 g of tetrabutylammonium bromide in 120 ml of toluene are heated to the reflux temperature, and a solution of 75 g (0.466 mol) of 4-chlorobenzyl chloride in 60 ml of toluene is added dropwise. The reaction mixture is subsequently stirred under reflux for 12 hours, cooled and washed with water and the organic phase is dried over sodium sulphate and concentrated in vacuo. 81.5 g (60% of theory) of 4-chlorophenyl 4-chlorophenyl-tert.-butyl ketone of refractive index nD20 1.5711 are obtained.

reactant | 4-chlorophenyl isopropyl ketone | 0.466 mol, 85 g | C(C)(C)C(=O)C1=CC=C(C=C1)Cl | C10H11ClO
reactant | potassium hydroxide | 0.56 mol, 31.3 g | [OH-].[K+]
reactant | 4-chlorobenzyl chloride | 0.466 mol, 75 g | ClC1=CC=C(CCl)C=C1 | C7H6Cl2
catalyst | tetrabutylammonium bromide | 5 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 4-chlorophenyl 4-chlorophenyl-tert.-butyl ketone | 81.5 g, 60% | ClC1=CC=C(C=C1)CC(C)(C)C(=O)C1=CC=C(C=C1)Cl | C17H16Cl2O
